US07601722B2
In an analogous manner to general procedure V, 1-[2-(2-bromoethoxy)ethyl]-3-(2,6-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (0.1 g, 0.23 mmol) was treated with 30-40% ethylamine in methanol to give 2-{2-[3-(2,6-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethoxy}-N-ethylethanamine which was treated with 1N hydrochloric acid in ether to give its hydrochloride salt as a white solid (0.67 g, 67%). HRMS: calcd for C18H21F2N3O3S+H+, 398.13444; found (ESI, [M+H]+Obs'd), 398.1341.

reactant | 1-[2-(2-bromoethoxy)ethyl]-3-(2,6-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.23 mmol, 0.1 g | BrCCOCCN1S(N(C2=C1C=CC=C2)C2=C(C=CC=C2F)F)(=O)=O | C16H15BrF2N2O3S
reactant | ethylamine | C(C)N | C2H7N
solvent | methanol | CO | CH4O
product | 2-{2-[3-(2,6-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethoxy}-N-ethylethanamine | FC1=C(C(=CC=C1)F)N1S(N(C2=C1C=CC=C2)CCOCCNCC)(=O)=O | C18H21F2N3O3S
